US07214673B2
5-methyl-2-(2-nitro-phenylamino)-benzonitrile
Combine 1-fluoro-2-nitro-benzene (4.34 g, 30.79 mmol), 2-amino-5-methyl-benzonitrile (4.07 g, 30.79 mmol), lithium hydroxide monohydrate (2.58 g, 61.58 mmol) and DMSO (50.0 ml). Stir the mixture at 55° C. for 22 hours then cool it to ambient temperature. Pour the mixture onto ice chips and stir for 1 hour. Remove the resulting precipitate by vacuum filtration. Dry the precipitate under vacuum then purify it on silica gel using dichloromethane/hexanes (75:25) to give 4.45 g (57%) of an orange solid: mp 135–139°; mass spectrum (ion spray): m/z=254.0 (M+1).

reactant | 1-fluoro-2-nitro-benzene | 30.79 mmol, 4.34 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 2-amino-5-methyl-benzonitrile | 30.79 mmol, 4.07 g | NC1=C(C#N)C=C(C=C1)C | C8H8N2
reactant | lithium hydroxide monohydrate | 61.58 mmol, 2.58 g | O.[OH-].[Li+]
solvent | DMSO | 50.0 ml | CS(=O)C | C2H6OS
product | 5-methyl-2-(2-nitro-phenylamino)-benzonitrile | 4.45 g, 57% | CC=1C=CC(=C(C#N)C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C14H11N3O2
